US08003649B2
Reductive amination of 6-(piperazin-1-yl)-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine with 2-(trifluoromethyl)benzaldehyde was carried out according to General Synthetic Method 5. The crude product was purified by hplc using a Waters XBridge Prep C18 OBD column (5μ silica, 19 mm diameter, 100 mm length) eluted with decreasingly polar mixtures of water (containing 1% aqueous ammonia) and acetonitrile as eluents to give 3-(trifluoromethyl)-6-[4-[[2-(trifluoromethyl)phenyl]methyl]piperazin-1-yl]-[1,2,4]triazolo[4,3-b]pyridazine.

reactant | 6-(piperazin-1-yl)-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | N1(CCNCC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C10H11F3N6
reactant | 2-(trifluoromethyl)benzaldehyde | FC(C1=C(C=O)C=CC=C1)(F)F | C8H5F3O
product | 3-(trifluoromethyl)-6-[4-[[2-(trifluoromethyl)phenyl]methyl]piperazin-1-yl]-[1,2,4]triazolo[4,3-b]pyridazine | FC(C1=NN=C2N1N=C(C=C2)N2CCN(CC2)CC2=C(C=CC=C2)C(F)(F)F)(F)F | C18H16F6N6
